US09278961B2
250 mg of 5-(methoxycarbonyl)picolinic acid was coupled to benzylamine via Procedure G. Crude methyl 6-(benzylcarbamoyl)nicotinate was hydrolyzed via Procedure M to yield 300 mg of 6-(benzylcarbamoyl)nicotinic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 6-(benzylcarbamoyl)nicotinic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield-benzyl-N5-(4-chloro-3-(pyridin-2-yl)phenyl)pyridine-2,5-dicarboxamide. MS (Q1) 443.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 60 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 6-(benzylcarbamoyl)nicotinic acid | C(C1=CC=CC=C1)NC(=O)C1=NC=C(C(=O)O)C=C1 | C14H12N2O3
product | benzyl-N5-(4-chloro-3-(pyridin-2-yl)phenyl)pyridine-2,5-dicarboxamide | C(C1=CC=CC=C1)C=1C(=NC=C(C1)C(=O)NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)C(=O)N | C25H19ClN4O2
